US06057337
N-(3-Morpholinopropyl)-[2-(1-octadecanoyl-2-piperidyl)ethoxy]formamide hydrochloride (Compound 11)
4N Hydrochloric acid/ethyl acetate solution (0.26 ml) was added to a solution of N-(3-morpholinopropyl)-[2-(1-octadecanoyl-2-piperidyl)ethoxy]formamide (0.500 g) in ethyl acetate (5 ml). After being stirred for 15 minutes at room temperature, the reaction mixture was concentrated, thereby yielding the entitled compound (0.532 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.26 ml | Cl.C(C)(=O)OCC
reactant | N-(3-morpholinopropyl)-[2-(1-octadecanoyl-2-piperidyl)ethoxy]formamide | 0.500 g | O1CCN(CC1)CCCN(C=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | C33H63N3O4
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Morpholinopropyl)-[2-(1-octadecanoyl-2-piperidyl)ethoxy]formamide hydrochloride | 0.532 g | Cl.O1CCN(CC1)CCCN(C=O)OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | InChI=1S/C33H63N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-21-33(38)36-25-18-17-20-32(36)22-28-40-35(31-37)24-19-23-34-26-29-39-30-27-34;/h31-32H,2-30H2,1H3;1H
